US08309546B2
5-[9-(Cyclopropylmethyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine
A dimethyl sulfoxide solution (0.8 ml) of 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine (78.3 mg, 0.20 mmol) and piperazine (67.6 mg, 0.78 mmol) was heated at 140° C. and stirred for 2.5 hours. The mixture was left standing to cool followed by the addition of dichloromethane-methanol (10:1) and the resulting mixture was washed with saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous sodium sulfate, the mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by preparative thin layer silica gel chromatography (dichloromethane:methanol=5:1) to give the title compound (76.5 mg, 89%) as a pale yellow solid.

reactant | dimethyl sulfoxide | 0.8 ml | CS(=O)C | C2H6OS
reactant | 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine | 0.20 mmol, 78.3 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC1CC1 | C17H19ClN8O
reactant | piperazine | 0.78 mmol, 67.6 mg | N1CCNCC1 | C4H10N2
solvent | dichloromethane methanol | ClCCl.CO
product | 5-[9-(Cyclopropylmethyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine | 76.5 mg, 89% | C1(CC1)CN1C2=NC(=NC(=C2N=C1N1CCNCC1)N1CCOCC1)C=1C=NC(=NC1)N | C21H28N10O
